US05247085
9-[2-(Phosphonomethoxy)ethoxy]adenine
To a solution of 9-[2-(diethoxyphosphorylmethoxy)ethoxy]adenine (0.63 g, 1.83 mmol) in dry dichloromethane (10 ml) was added trimethylsilyl bromide (1.45 ml, 11 mmol) and the solution stirred at ambient temperature for 2 hours. The solvent was removed under reduced pressure and the residue dissolved in methanol (10 ml). The solvent was evaporated and the residue again dissolved in methanol and solvent evaporated to give a solid residue. Crystallisation from methanol: acetone gave the title compound which was recrystallised from methanol: water (0.24 g, 45%), m.p. 241°-244° C. UV: λmax (EtOH) 259 nm (ε 13,500); IR: νmax (KBr) 3428, 3312, 3084, 1685, 1644, 1612, 1484, 1462, 1455, 1336, 1294, 1278, 1255, 1215, 1195, 1104, 1060, 1046, 1033, 955, 934, 892 cm-1. 1H NMR: δH [(CD3)2SO]3.64 (2H,d,J=8.2 Hz, OCH2P), 3.82 (2H,m,N-OCH2CH2O), 4.50 (2H,m, N-OCH2CH2), 7.42 (2H, br.s, D2O exchangeable NH2), 8.15 (1H,s,H-8), 8.38 (1H,s,H-2) 10.0-4.5 (2H,broad, D2O exchangeable PO(OH )2). Found: C,32.84; H,4.41; N: 23.74%. C8H12N5O5P. H2O requires: C,33.01; H,4.19; N:24.06%.

reactant | 9-[2-(diethoxyphosphorylmethoxy)ethoxy]adenine | 1.83 mmol, 0.63 g | C(C)OP(=O)(OCC)COCCON1C2=NC=NC(=C2N=C1)N | C12H20N5O5P
reactant | trimethylsilyl bromide | 11 mmol, 1.45 ml | C[Si](C)(C)Br | C3H9BrSi
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 9-[2-(Phosphonomethoxy)ethoxy]adenine | P(=O)(O)(O)COCCON1C2=NC=NC(=C2N=C1)N | C8H12N5O5P
